US06462076B2
Preparation of {2-[(1-Cyano-1-cyclopropyl-methyl)-carbamoyl]-cyclohexyl}-carbamic Acid Benzyl Ester
A solution of 2-Benzyloxycarbonyl-amino-cyclohexane carboxylic acid (1.46 g, 5.26 mmol), 2-Amino-2-cyclopropyl-acetonitrile hydrochloride (0.70 g, 5.27 mmol ), 1-hydroxybenzotriazole (0.89 g, 5.82 mmol) and N-methylmorpholine (1.07 g, 10.58 mmol) in DMF is cooled to 0° C. and treated with 1-ethyl-3-(3-dimethylamino)propyl carbodiimide hydrochloride (2.02 g, 10.54 mmol). The reaction mixture is allowed to warm to room temperature overnight and concentrated. The residue is dissolved in CH2Cl2, washed with dilute aqueous HCl and saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to give a brown oil. This brown oil is purified via flash chromatograhy with hexane:EtOAc 6:1 to 3:1 to give the product as a white foam.

reactant | 2-Benzyloxycarbonyl-amino-cyclohexane carboxylic acid | 5.26 mmol, 1.46 g | C(C1=CC=CC=C1)OC(=O)C1C(CCCC1)(C(=O)O)N | C15H19NO4
reactant | 2-Amino-2-cyclopropyl-acetonitrile hydrochloride | 5.27 mmol, 0.70 g | Cl.NC(C#N)C1CC1
reactant | 1-hydroxybenzotriazole | 5.82 mmol, 0.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 10.58 mmol, 1.07 g | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | {2-[(1-Cyano-1-cyclopropyl-methyl)-carbamoyl]-cyclohexyl}-carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC1C(CCCC1)C(NC(C1CC1)C#N)=O)=O | C20H25N3O3
